US04946942
A mixture of N-benzyloxycarbonyl-L-alanyl-L-phenylalanine benzyl ester (0.50 g, 1.1 mmol) and 10% Pd palladium on carbon (0.1 g) in ethyl alcohol (150 mL) was shaken on a Parr hydrogenation apparatus for 6.5 h at 20° C. The reaction mixture was filtered and the filtrate rinsed with water (100 mL). The solution was concentrated to give 0.26 g (100%) of L-alanyl-L-phenylalanine. HPLC analysis showed >99% purity and no evidence of racemization.

reactant | N-benzyloxycarbonyl-L-alanyl-L-phenylalanine benzyl ester | 1.1 mmol, 0.50 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC1=CC=CC=C1)=O | C27H28N2O5
solvent | ethyl alcohol | 150 mL | C(C)O | C2H6O
product | L-alanyl-L-phenylalanine | 0.26 g, 100% | N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C12H16N2O3
